US08487108B2
To a suspension of NaH (2.4 g, 60 mmol) in dry THF (20 mL) was added a solution of (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-hydroxybutyl)piperidine-1-carboxylate (7.34 g, 20 mmol) in dry THF (80 mL) at 0° C. The reaction mixture was stirred at rt for 2 h. Then a solution of (2-bromoethoxy)(tert-butyl)dimethylsilane (14.3 g, 60 mmol) in THF (100 mL) was added dropwise. After addition, the resulting mixture was stirred under reflux overnight. To the reaction mixture was added dropwise saturated NH4Cl solution, extracted by EtOAc (2×100 mL), washed with brine, dried over Na2SO4, and concentrated in vacuo to give the crude product. The crude product was purified by column chromatography on silica gel to afford (R)-tert-butyl 3-((R)-1-(2-(tert-butyldimethylsilyloxy)ethoxy)-1-(3-chlorophenyl)butyl)piperidine-1-carboxylate (1.1 g, 10%). 1H NMR (CDCl3, 400 MHz) δ 7.35 (s, 1H), 7.22 (m, 3H), 4.05 (m, 2H), 3.81 (m, 2H), 3.31 (m, 2H), 2.42 (t, 3H), 2.06 (m, 3H), 1.85 (m, 2H), 1.58 (m, 2H), 1.44 (s, 9H), 1.41-1.01 (m, 7H), 0.92 (s, 9H), 0.095 (s, 6H).

reactant | NaH | 60 mmol, 2.4 g | [H-].[Na+]
reactant | (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-hydroxybutyl)piperidine-1-carboxylate | 20 mmol, 7.34 g | ClC=1C=C(C=CC1)[C@](CCC)(O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C20H30ClNO3
reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | 60 mmol, 14.3 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-((R)-1-(2-(tert-butyldimethylsilyloxy)ethoxy)-1-(3-chlorophenyl)butyl)piperidine-1-carboxylate | 1.1 g, 10% | [Si](C)(C)(C(C)(C)C)OCCO[C@@](CCC)(C1=CC(=CC=C1)Cl)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C28H48ClNO4Si
